US06310056B1
A solution of 925 mg of 7-methoxymethylimidazo[5,1-b]thiazole in anhydrous THF was cooled to −70° C. under the atmosphere of argon and 3.54 ml of a 1.6 N n-butyl lithium/n-hexane solution was slowly added, and the mixture was stirred for 1 hour. To the reaction mixture was slowly added a solution of 1.88 g of tri-n-butylstannyl chloride in 2 ml of anhydrous THF, and the mixture was stirred for further 1.5 hours. After the addition of 100 ml of ethyl acetate, the solvent was removed by distillation to concentrate the mixture to a total volume of about 1 ml. Purification by silica gel chromatography gave 896 mg of 7-methoxymethyl-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole from a low polar fraction eluted with dichloromethane:ethyl acetate=4:1.

reactant | 7-methoxymethylimidazo[5,1-b]thiazole | 925 mg | COCC=1N=CN2C1SC=C2 | C7H8N2OS
reactant | n-butyl lithium n-hexane | 1.6 N | C(CCC)[Li].CCCCCC
reactant | tri-n-butylstannyl chloride | 1.88 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7-methoxymethyl-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 896 mg | COCC=1N=CN2C1SC=C2[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H7N2OS.3C4H9.Sn/c1-10-4-6-7-9(5-8-6)2-3-11-7;3*1-3-4-2;/h3,5H,4H2,1H3;3*1,3-4H2,2H3;
